US07189754B2
Method A (e.g. methyl (2S,4EZ)-4-4-(methoxyimino-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxylate): A solution of methyl-(2S,4EZ)-4-(methoxyimino)-2-pyrrolidinecarboxylate (0.564 g, 3.28 mmol), 2′-methyl[1,1′-biphenyl]-4-carboxylic acid (0.765 g, 3.60 mmol) and 4-dimethylaminopyridine (0.880 g, 7.21 mmol) in a 7:3 mixture of DCM and DMF (30 ml) was made. EDC (0.691 mg, 3.60 mmol) was added slowly at 0° C. The reaction mixture was stirred overnight at r.t. It was washed with water (twice 20 ml), dried over MgSO4, filtrated and evaporated in vacuo. The resulting crude product mixture, methyl (2S,4EZ)-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxylate, was purified by flash chromatography, unsing cyclohexane/EtOAc 8:2 as eluent. After several further chromatographies, (E)- and (Z)-isomers could be separated: methyl (2S,4E)-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxylate (261 mg, 22%) was isolated as a colorless powder in 98.3% purity by HPLC, and methyl (2S,4Z)-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxylate (237 mg, 20%) was isolated as a colorless powder in 98.3% purity by HPLC.

reactant | methyl-(2S,4EZ)-4-(methoxyimino)-2-pyrrolidinecarboxylate | 3.28 mmol, 0.564 g | COC(=O)[C@H]1NCC(C1)=NOC | C7H12N2O3
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | 3.60 mmol, 0.765 g | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | EDC | 3.60 mmol, 0.691 mg
catalyst | 4-dimethylaminopyridine | 7.21 mmol, 0.880 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl (2S,4E)-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxylate | 261 mg, 22% | CO\N=C\1/C[C@H](N(C1)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C(=O)OC | C21H22N2O4
